US07674795B2
The procedure used in Example 6 is followed. In a 528 ml autoclave, dissolve 2.2 g of 4-(5-trifluoromethyl-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime (Z,E), obtained in the previous stage, in a mixture of 80 ml of ethanol and 80 ml of tetrahydrofuran, add a spatula of Raney activated nickel and then subject to an initial hydrogen pressure of 1 bar and heat the autoclave at 600 for 4 hours. After cooling, the volume of hydrogen absorbed is 412 ml. After filtration of the catalyst over Celite, concentrate under reduced pressure. In this way, we obtain 1.73 g of 4-(5-trifluoromethyl-1H-benzimidazol-2-yl)-9H-fluorene-9(R,S)-amine, in the form of a grey foam with the following characteristics:

reactant | hydrogen | [H][H] | H2
reactant | 4-(5-trifluoromethyl-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime | 2.2 g | FC(C1=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)=NO)C=C1)(F)F | C21H12F3N3O
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
catalyst | nickel | [Ni] | Ni
product | 4-(5-trifluoromethyl-1H-benzimidazol-2-yl)-9H-fluorene-9(R,S)-amine | 1.73 g | FC(C1=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)N)C=C1)(F)F | C21H14F3N3
